US09127003B2
Intermediate 33: (R)-tert-Butyl(1-(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate
To a solution of (R)-tert-butyl(1-(3-methoxy-4-(methylamino)-5-nitrobenzoyl)piperidin-3-yl)carbamate (3.58 g, 8.76 mmol) and 1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (2.61 g, 11.44 mmol) in ethanol (140 ml) was added portionwise a solution of sodium hydrosulfite (3.18 g, 15.53 mmol) in water (70 ml). The mixture was flushed with nitrogen then heated at 100° C. overnight (16 hours). The reaction mixture was concentrated under vacuum then diluted with DCM (150 ml) and water (150 ml). The organic layer was collected and the aqueous layer washed with DCM (3×100 ml). Organic layers were collected, dried with Na2SO4, filtered through a hydrophobic frit and concentrated under vacuum to yield 5.5 g of crude product as white solid. This was dissolved in a minimum volume of DCM and purified using Biotage SP4 on a 100 g SNAP silica cartridge. The column was eluted with a gradient of 70-100% ethyl acetate in DCM for 10CV. Appropriate fractions were collected and concentrated under vacuum to yield the title compound as a white solid (4.31 g).

reactant | (R)-tert-butyl(1-(3-methoxy-4-(methylamino)-5-nitrobenzoyl)piperidin-3-yl)carbamate | 8.76 mmol, 3.58 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(C1=CC(=C(C(=C1)[N+](=O)[O-])NC)OC)=O)=O | C19H28N4O6
reactant | 1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 11.44 mmol, 2.61 g | FC(CN1C(=CC=2C1=NC=CC2)C=O)(F)F | C10H7F3N2O
reactant | sodium hydrosulfite | 15.53 mmol, 3.18 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl(1-(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 4.31 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C(=C1)OC)=O | C29H33F3N6O4
